US04853476
4-[[(S)2-[[hydroxy(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]amino]benzoic acid ethyl ester;
4-[[(S)2-[[hydroxy(2-phenylethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]amino]benzoic acid ethyl ester, calcium salt thereof;

reactant | 4-[[(S)2-[[hydroxy(2-phenylethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]amino]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC([C@H](CC1=CC=CC=C1)OP(=O)(OCCC1=CC=CC=C1)O)=O)=O | C26H28NO7P
reactant | calcium | [Ca] | Ca
product | 4-[[(S)2-[[hydroxy(phenylmethoxy)phosphinyl]oxy]-1-oxo-3-phenylpropyl]amino]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC([C@H](CC1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)O)=O)=O | C25H26NO7P
